US07494999B2
To a solution of indan-1-carboxylic acid 4-nitro-benzyl ester (2.3 g, 8.1 mmol) in anhydrous CHCl3 (13 mL) at −20° C. was added chlorosulfonic acid (2.8 g, 24.0 mmol) over a period of 10 minutes. The mixture was warmed to ambient temperature and stirred for 16 h. The reaction mixture was combined with ice-water and the resulting layer was extracted with CH2Cl2. The CH2Cl2 layer was washed with brine and was dried over anhydrous Na2SO4. The crude product was purified using flash silica chromatography (0-30% EtOAc/Hex) to yield 0.84 g (27%) of 6-chlorosulfonyl-indan-1-carboxylic acid 4-nitro-benzyl ester.

reactant | indan-1-carboxylic acid 4-nitro-benzyl ester | 8.1 mmol, 2.3 g | [N+](=O)([O-])C1=CC=C(COC(=O)C2CCC3=CC=CC=C23)C=C1 | C17H15NO4
reactant | chlorosulfonic acid | 24.0 mmol, 2.8 g | ClS(=O)(=O)O | ClHO3S
solvent | CHCl3 | 13 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-chlorosulfonyl-indan-1-carboxylic acid 4-nitro-benzyl ester | 0.84 g, 27% | [N+](=O)([O-])C1=CC=C(COC(=O)C2CCC3=CC=C(C=C23)S(=O)(=O)Cl)C=C1 | C17H14ClNO6S
